US06613942B1
1,2-Dibromoethane (47 mL, 0.55 moles) was added to a mixture of syringaldehyde (10 g, 55 mmoles) and potassium carbonate (38 g, 275 mmoles) in DMF (150 ml) and the resulting mixture was stirred vigorously at room temperature for 16 hours. The mixture was poured into water (0.5 L) and extracted with ethyl acetate (3×300 mL). The combined organic phases were washed with saturated sodium chloride (500 mL), dried over MgSO4 and evaporated in vacuo to afford 3.44 g (22%) of 4-(2-bromoethoxy)-3,5-dimethoxybenzaldehyde.

reactant | 1,2-Dibromoethane | 0.55 moles, 47 mL | BrCCBr | C2H4Br2
reactant | syringaldehyde | 55 mmoles, 10 g | C(C1=CC(OC)=C(O)C(OC)=C1)=O | C9H10O4
reactant | potassium carbonate | 275 mmoles, 38 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.5 L | O | H2O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-(2-bromoethoxy)-3,5-dimethoxybenzaldehyde | 3.44 g, 22% | BrCCOC1=C(C=C(C=O)C=C1OC)OC | C11H13BrO4
